US09212168B2
Preparation 19: ((S)-1-{(2S,4S)-2-[4-(4-Bromo-phenyl)-1H-imidazol-2-yl]-4-methylsulfanyl-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester
A mixture of (S)-2-methoxycarbonylamino-3-methyl-butyric acid (156 mg, 0.89 mmol) and HATU (407 mg, 1.07 mmol) was stirred in DMA (3.0 mL) for 10 min, then 4-(4-bromo-phenyl)-2-((2S,4S)-4-methylsulfanyl-pyrrolidin-2-yl)-1H-imidazole di-HCl (367 mg, 0.89 mmol; Preparation 18) and N,N-diisopropylethylamine (777.3 μL, 4.46 mmol) were added. The resulting mixture was stirred at RT overnight, concentrated, and purified by silica gel chromatography (0 to 90% EtOAc/hexane). Fractions with desired product were combined and concentrated to give the title intermediate (366 mg, 82% yield). (m/z): [M+H]+ calcd for C21H27BrN4O3S 495.10; 497.10. found 495.

reactant | (S)-2-methoxycarbonylamino-3-methyl-butyric acid | 0.89 mmol, 156 mg | COC(=O)N[C@H](C(=O)O)C(C)C | C7H13NO4
reactant | HATU | 1.07 mmol, 407 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-(4-bromo-phenyl)-2-((2S,4S)-4-methylsulfanyl-pyrrolidin-2-yl)-1H-imidazole di-HCl | 0.89 mmol, 367 mg | Cl.Cl.BrC1=CC=C(C=C1)C=1N=C(NC1)[C@H]1NC[C@H](C1)SC
reactant | N,N-diisopropylethylamine | 4.46 mmol, 777.3 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMA | 3.0 mL | CC(=O)N(C)C | C4H9NO
product | ((S)-1-{(2S,4S)-2-[4-(4-Bromo-phenyl)-1H-imidazol-2-yl]-4-methylsulfanyl-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 366 mg, 82% yield | COC(N[C@@H](C(C)C)C(=O)N1[C@@H](C[C@@H](C1)SC)C=1NC=C(N1)C1=CC=C(C=C1)Br)=O | C21H27BrN4O3S
